US04703046
A solution of 4-nitrobenzyl 7-amino-2-methoxy-3-cephem-4-carboxylate hydrochloride (2.0 g.), trimethylsilylacetamide (2.0 g.) and 2,6-lutidine (0.58 ml.) in dry ethyl acetate (60 ml.) and a solution of dimethylformamide (0.51 ml.), phosphoryl chloride (0.60 ml.) and 2-(2-formamido-5-bromothiazol-4-yl)-2-methoxyiminoacetic acid (syn isomer, 1.7 g.) in dry ethyl acetate (11.7 ml.) were treated in a similar manner to that of Example 1-(1) to give 4-nitrobenzyl 7-[2-(2-formamido-5-bromothiazol-4-yl)-2-methoxyiminoacetamido]-2-methoxy-3-cephem-4-carboxylate (syn isomer, 2.9 g.).

reactant | 4-nitrobenzyl 7-amino-2-methoxy-3-cephem-4-carboxylate hydrochloride | 2.0 g | Cl.NC1[C@@H]2N(C(=CC(S2)OC)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O
reactant | trimethylsilylacetamide | 2.0 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
reactant | 2,6-lutidine | 0.58 ml | N1=C(C=CC=C1C)C | C7H9N
reactant | phosphoryl chloride | 0.60 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-(2-formamido-5-bromothiazol-4-yl)-2-methoxyiminoacetic acid | 1.7 g | C(=O)NC=1SC(=C(N1)C(C(=O)O)=NOC)Br | C7H6BrN3O4S
solvent | ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 11.7 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 0.51 ml | CN(C=O)C | C3H7NO
product | 4-nitrobenzyl 7-[2-(2-formamido-5-bromothiazol-4-yl)-2-methoxyiminoacetamido]-2-methoxy-3-cephem-4-carboxylate | 2.9 g | C(=O)NC=1SC(=C(N1)C(C(=O)NC1[C@@H]2N(C(=CC(S2)OC)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O)=NOC)Br | C22H19BrN6O9S2
